US09290490B2
Ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate (175 mg, 0.390 mmol) was taken up in ethanol (5 mL), and palladium on carbon (10% loading, 104 mg, 0.098 mmol) was added. The reaction was purged with hydrogen gas (3×) and stirred under a hydrogen atmosphere (via balloon) overnight at room temperature. The mixture was then filtered through CELITE, concentrated under reduced pressure, and the residue purified by flash chromatography on silica gel (0-50% ethyl acetate in hexanes) to provide ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate (yellow gum) as a 3:1 mixture of diastereomers. MS ESI calc'd. for C25H31N4O2S [M+H]+ 451. found 451. 1H NMR (500 MHz, DMSO-d6) δ 9.58 (s, 1H), 8.34 (d, J=5.0, 1H), 7.96 (s, 1H), 7.92 (s, 1H), 7.51 (s, 1H), 7.03 (s, 1H), 6.74 (d, J=5.0 Hz, 1H), 4.06 (q, J=7.1 Hz, 2H), 2.88 (d, J=7.3 Hz, 2H), 2.36 (s, 3H), 2.29 (s, 3H), 1.93-1.83 (m, 4H), 1.62-1.45 (m, 4H), 1.24 (d, J=9.5 Hz, 2H), 1.18-1.14 (m, 3H). rhSyk activity=++

reactant | Ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate | 0.390 mmol, 175 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C)C1=CN=C(S1)C=C1CCC(CC1)C(=O)OCC | C25H28N4O2S
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.098 mmol, 104 mg | [Pd] | Pd
product | ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C)C1=CN=C(S1)CC1CCC(CC1)C(=O)OCC | C25H30N4O2S
